US04001431
2g of 2-phenyl-3-(4-bromophenyl)-3-chloro-acrylaldoxime (5.9 m moles) were suspended in 50 ml of THF. The mixture was cooled to 0° C and, successively, 5 ml of sodium hydroxide solution and 1.14 g of p-toluene-sulfochloride were added. The mixture was stirred for 1 hour at 10° C and evaporated at room temperature. The solid residue was taken up with a small amount of methylene chloride and applied onto a column with basic aluminum oxide in n-hexane. Elution was effected with petroleum ether and then with methylene chloride. In this way pure 2-phenyl-3-(4-bromophenyl)-3-chloro-acrylonitrile (melting point: 128° -130° C) was obtained.

reactant | 2-phenyl-3-(4-bromophenyl)-3-chloro-acrylaldoxime | C1(=CC=CC=C1)C(C=NO)=C(Cl)C1=CC=C(C=C1)Br | C15H11BrClNO
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | p-toluene sulfochloride | 1.14 g | CC1=CC=CC=C1.S(=O)(=O)(O)Cl
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-phenyl-3-(4-bromophenyl)-3-chloro-acrylonitrile | C1(=CC=CC=C1)C(C#N)=C(Cl)C1=CC=C(C=C1)Br | C15H9BrClN
